US07208633B2
bis(biphenyl-4-yl)phosphine oxide
Under an argon atmosphere, a solution of magnesium (2.60 g, 1.0 equivalent), a small amount of iodine and a small amount of 1,2-dibromoethane in THF (20 mL) was stirred at room temperature for 30 min. A solution of 4-bromobiphenyl (25 g, 0.107 moL) in THF (20 mL) was added at 35° C. and the mixture was stirred at 40° C. for 1 hr. and then stirred at 5° C. for 30 min. A solution of diethyl phosphite (7.39 g, 0.5 equivalent) in THF (10 mL) was added at 5° C., and the mixture was stirred at 5° C. for 2 hrs. Toluene (60 mL) was added at 3° C. and 3M-HCl (30 mL) was added. The mixture was stirred at room temperature for 30 min. THF (50 mL) was added, and the reaction mixture was partitioned. The organic layer was washed with 5% aqueous NaCl solution (10 mL). The organic layer was dried over anhydrous magnesium sulfate, filtered by gravity, and the filtrate was concentrated under reduced pressure. The residue was recrystallized from diisopropyl ether to give the title compound (12.47 g, white crystals). yield 65.8%.

reactant | magnesium | 2.60 g, 1.0 equivalent | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | 4-bromobiphenyl | 25 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | diethyl phosphite | 7.39 g, 0.5 equivalent | P(OCC)(OCC)[O-]
reactant | HCl | 30 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | Toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | bis(biphenyl-4-yl)phosphine oxide | 12.47 g, yield 65.8% | C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C24H19OP
